US07365085B2
h. N-(2-Phenyl-4-methylpentyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
The titled compound was prepared from N-(2-phenyl-4-methylpentyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine in 74% yield in the same manner as the preparation of N-(2-[4-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride in Example 188f. MS (ESI) 562 (MH+)

reactant | N-(2-phenyl-4-methylpentyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)CC(C)C | C32H37ClF3NO3
reactant | N-(2-[4-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | Cl.COC1=CC=C(C=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C
product | N-(2-Phenyl-4-methylpentyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | 74% yield | Cl.C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)CC(C)C | InChI=1S/C31H35ClF3NO3.ClH/c1-22(2)17-26(24-10-4-3-5-11-24)21-36(20-25-12-7-14-28(30(25)32)31(33,34)35)15-8-16-39-27-13-6-9-23(18-27)19-29(37)38;/h3-7,9-14,19,22,26H,8,15-18,20-21H2,1-2H3,(H,37,38);1H
